US07846954B2
Synthesized according to General Procedure 12, Method B. To a solution of 2-aminothiazole (35 mg, 0.35 mmol) in acetonitrile (0.4 mL) at 0° C. was added 2-tert-butyl-1,1,3,3-tetramethylguanidine (61 mg, 0.35 mmol) dropwise and the reaction mixture stirred at 0° C. for 10 min. 4-[(3′S)-3-(3,5-dichlorophenyl)-2′-oxo-1,3′-bipyrrolidin-1′-yl]-2,6-difluorobenzene-1-sulfonyl chloride (60 mg, 0.12 mmol) was added and the reaction mixture was stirred at RT for 16 hours. The reaction mixture was diluted with DMSO, filtered and purified by reverse phase HPLC using 5%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA) to afford 4-[(3′S)-3-(3,5-dichlorophenyl)-2′-oxo-1,3′-bipyrrolidin-1′-yl]-2,6-difluoro-N-(thiazol-2-yl)benzenesulfonamide. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=573.3; tR=1.32 min.

reactant | 2-aminothiazole | 0.35 mmol, 35 mg | NC=1SC=CN1 | C3H4N2S
reactant | 2-tert-butyl-1,1,3,3-tetramethylguanidine | 0.35 mmol, 61 mg | C(C)(C)(C)N=C(N(C)C)N(C)C | C9H21N3
reactant | 4-[(3′S)-3-(3,5-dichlorophenyl)-2′-oxo-1,3′-bipyrrolidin-1′-yl]-2,6-difluorobenzene-1-sulfonyl chloride | 0.12 mmol, 60 mg | ClC=1C=C(C=C(C1)Cl)C1CN(CC1)[C@@H]1C(N(CC1)C1=CC(=C(C(=C1)F)S(=O)(=O)Cl)F)=O | C20H17Cl3F2N2O3S
solvent | acetonitrile | 0.4 mL | C(C)#N | C2H3N
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-[(3′S)-3-(3,5-dichlorophenyl)-2′-oxo-1,3′-bipyrrolidin-1′-yl]-2,6-difluoro-N-(thiazol-2-yl)benzenesulfonamide | ClC=1C=C(C=C(C1)Cl)C1CN(CC1)[C@@H]1C(N(CC1)C1=CC(=C(C(=C1)F)S(=O)(=O)NC=1SC=CN1)F)=O | C23H20Cl2F2N4O3S2
